US08791107B2
2-(1H-pyrrolo[2,3-b]pyridin-3-yl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine
A mixture of 2-chloro-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine (PREPARATION x2, 50 mg, 0.221 mmol), tert-butyl 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine-1-carboxylate (114 mg, 0.331 mmol) and PdCl2(dppf) (8.07 mg, 0.011 mmol) were partially dissolved in dioxane (2 mL) and aqueous saturated NaHCO3 (0.4 mL). The resulting brown suspension was stirred overnight at 100° C. By the following day, the coupling reaction was complete and the BOC group had also been removed. The reaction mixture was subsequently diluted with ethyl acetate and washed with brine (3×10 mL). The combined organic layers were dried over MgSO4, filtered, and concentrated in vacuo. The product was first purified by LC/MS using a gradient of 0-30% CH3CN (with 0.035% TFA) in H2O (with 0.05% TFA). The product and the starting material co-eluted, yielding no pure fractions. The fractions which contained product were concentrated and lyophilized to give a yellow solid, which was re-purified via LC/MS using a 15-40% gradient of CH3CN in H2O with 10 mmol NH4HCO3. The pure fractions were combined and lyophilized to give the title compound as a white solid (10 mg, 15%). 1H NMR (400 MHz, DMSO-d6) δ 2.89-3.08 (m, 2H), 3.12-3.26 (m, 1H), 3.39-3.52 (m, 2H), 3.52-3.67 (m, 1H), 3.83-4.14 (m, 2H), 4.45-4.63 (m, 1H), 5.60-5.80 (m, 1H), 7.04-7.23 (m, 1H), 7.53-7.68 (m, 1H), 7.91-8.03 (m, 1H), 8.13-8.30 (m, 1H), 8.59-8.78 (m, 1H), 11.70-11.88 (m, 1H). ESI-MS m/z [M+H]+ calc'd for C16H16N6O, 309.14. found 309.3.

reactant | 2-chloro-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | 0.221 mmol, 50 mg | ClC1=NC=2N3C(CNC2C=N1)COCC3 | C9H11ClN4O
reactant | tert-butyl 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine-1-carboxylate | 0.331 mmol, 114 mg | CC1(OB(OC1(C)C)C1=CN(C2=NC=CC=C21)C(=O)OC(C)(C)C)C | C18H25BN2O4
reactant | NaHCO3 | 0.4 mL | C(=O)(O)[O-].[Na+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 0.011 mmol, 8.07 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(1H-pyrrolo[2,3-b]pyridin-3-yl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | 10 mg, 15% | N1C=C(C=2C1=NC=CC2)C2=NC=1N3C(CNC1C=N2)COCC3 | C16H16N6O
